US07897737B2
A solution of 6-TAMRA-SE (0.75 mg, 1.4 μmol) in anhydrous DMSO (30 μL) was added to a solution of triphosphate dC.10 (1.6 μmol) in Na2CO3/NaHCO3 buffer (0.1 M, pH 9.2; 0.3 mL) and incubated at room temperature for 30 minutes. The reaction was purified with reverse-phase HPLC using a Perkin Elmer OD-300 C18 column (4.6×250 mm) to yield the 6-TAMRA labeled triphosphate WW2p080. Mobile phase: A, 100 mM triethylammonium acetate (TEAA) in water (pH 7.0); B, 100 mM TEAA in water/CH3CN (30:70). HPLC purification was achieved a linear gradient of 5-50% B for 40 minutes and then 50-90% B for 10 minutes. The concentration of WW2p080 was estimated by adsorption spectroscopy using the extinction coefficient of the 6-TAMRA dye (i.e., 65,000 at 555 nm).

reactant | 6-TAMRA-SE | 1.4 μmol, 0.75 mg | CN(C)C1=CC2=C(C=C1)C(=C3C=CC(=[N+](C)C)C=C3O2)C4=C(C=CC(=C4)C(=O)ON5C(=O)CCC5=O)C(=O)[O-] | C29H25N3O7
reactant | triphosphate | [O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])[O-]
solvent | DMSO | 30 μL | CS(=O)C | C2H6OS
solvent | Na2CO3 NaHCO3 | 0.1 M, 0.3 mL, pH 9.2 | C(=O)([O-])[O-].[Na+].[Na+].C(=O)(O)[O-].[Na+]
product | 6-TAMRA | CN(C)C1=CC2=C(C=C1)C(=C3C=CC(=[N+](C)C)C=C3O2)C4=C(C=CC(=C4)C(=O)[O-])C(=O)O | C25H22N2O5
